US05665718
1.5 g (4.65 mmol) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, 20 ml of N,N-dimethylformamide, 4 ml (13.9 mmol) of N-ethyldiisopropylamine and 1.3 g (4.9 mmol) of α,α'-dibromo-o-xylene were stirred at room temperature for 1 hour. The reaction solution was evaporated, the residue was dissolved in methylene chloride and chromatographed on 50 g of silica gel while eluting with methylene chloride/ethyl acetate 1/1. There were obtained 1.2 g (61%) of (S)-12,12a-dihydro-1-(3-isoindolin-2-ylmethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride of m.p. 210°-213°.

reactant | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 4.65 mmol, 1.5 g | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C16H14N6O2
reactant | N-ethyldiisopropylamine | 13.9 mmol, 4 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | α,α'-dibromo-o-xylene | 4.9 mmol, 1.3 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (S)-12,12a-dihydro-1-(3-isoindolin-2-ylmethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 1.2 g, 61% | C1N(CC2=CC=CC=C12)CC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C24H20N6O2
